US08017782B2
(c). 4-(3-Bromo-5-ethoxy-4-hydroxy-phenyl)-2-methyl-3-nitro-7-propyl-4,6,7,8-tetra-hydro-1H-quinolin-5-one
A mixture of 1-methyl-2-nitro-vinylamine (1 g), 5-propylcyclohexane-1,3-dione (1.61 g) and 3-bromo-5-ethoxy-4-hydroxy-benzaldehyde (2.57 g) in ethanol (50 ml) was stirred at reflux for 17 h. The reaction mixture was concentrated in vacuo. The residue was dissolved in dichloromethane. A precipitate formed, which was collected by filtration. The solid was chromatographed on silicagel in heptane/EtOAc (from 1/0 to 0/1) as eluent. Yield: 2.8 g. MS-ESI: [M+H]+=465.0/467.0

reactant | 1-methyl-2-nitro-vinylamine | 1 g | CC(=C[N+](=O)[O-])N | C3H6N2O2
reactant | 5-propylcyclohexane-1,3-dione | 1.61 g | C(CC)C1CC(CC(C1)=O)=O | C9H14O2
reactant | 3-bromo-5-ethoxy-4-hydroxy-benzaldehyde | 2.57 g | BrC=1C=C(C=O)C=C(C1O)OCC | C9H9BrO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(3-Bromo-5-ethoxy-4-hydroxy-phenyl)-2-methyl-3-nitro-7-propyl-4,6,7,8-tetra-hydro-1H-quinolin-5-one | BrC=1C=C(C=C(C1O)OCC)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)[N+](=O)[O-] | C21H25BrN2O5
